US07265115B2
tert-butyl (1S,4S)-5-(6-chloro-5-methyl-3-pyridazinyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate
3,6-Dichloro-4-methylpyridazine (Aldrich Chemical Company) and tert-butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate, prepared as described in (J. Med. Chem., (1988) 31, 1598-1611), were processed as described in Example 2A to provide the title compound (56% yield). 1H NMR (CDCl3, 300 MHz) δ 1.41 (s, 4.5H), 1.43 (s, 4.5H), 1.90-2.09 (m, 2H), 2.31(s, 3H), 3.35-3.45 (m, 3H), 3.53-3.60(m, 1H), 4.56(s, 0.5H), 4.69(s, 0.5H), 4.90(s, 0.5H), 5.08(s, 0.5H), 6.48(s, 1H); MS (DCI/NH3) m/z 325 (M+H)+.

reactant | 3,6-Dichloro-4-methylpyridazine | ClC=1N=NC(=CC1C)Cl | C5H4Cl2N2
reactant | tert-butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
product | tert-butyl (1S,4S)-5-(6-chloro-5-methyl-3-pyridazinyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 56% yield | ClC1=C(C=C(N=N1)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C)C | C15H21ClN4O2
